US04983616
5-(t-Butoxycarbonyl-N-methylamino)-1,2,3,3a,8,8a-hexahydro-1,3a,8-trimethylpyrrolo[2,3-b]indole (100 mg) was heated under nitrogen without solvent to 200°-210° C. in an oil bath. After 1 hour, TLC (thin layer chromatography) indicated a conversion to a new compound. The flask was allowed to cool to ambient temperature and dichloromethane (5 ml) was added followed by the slow addition of a solution of methyl isocyanate (18 mg) in dichloromethane (3 ml) over a period of 45 minutes. The mixture was washed with water (2 ml), dried (Na2SO4), concentrated and purified by flash chromatography (eluting with 15% MeOH/EtOAc). The pure fractions were concentrated to give 5-(methylaminocarbonyl-N-methylamino)-1,2,3,3a,8,8a-hexahydro-1,3a,8-trimethylpyrrolo[2,3-b]indole (0.05 g).

reactant | 5-(t-Butoxycarbonyl-N-methylamino)-1,2,3,3a,8,8a-hexahydro-1,3a,8-trimethylpyrrolo[2,3-b]indole | 100 mg | C(C)(C)(C)OC(=O)N(C)C=1C=C2C3(C(N(C2=CC1)C)N(CC3)C)C | C19H29N3O2
reactant | methyl isocyanate | 18 mg | CN=C=O | C2H3NO
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 5-(methylaminocarbonyl-N-methylamino)-1,2,3,3a,8,8a-hexahydro-1,3a,8-trimethylpyrrolo[2,3-b]indole | 0.05 g | CNC(=O)N(C)C=1C=C2C3(C(N(C2=CC1)C)N(CC3)C)C | C16H24N4O
